US05985897
To a solution of 3-[(4-hydroxy)phenoxy]-2-(isopropyl)benzo[b]thiophene (1.71 g, 6.0 mmol) in 100 mL of anhydrous DMF is added finely ground anhydrous K2CO3 (8.30 g, 60 mmol) and 2-chloroethylpiperidine (1.54 g, 9.0 mmol). The resulting solution is stirred under N2 at room temperature for 16 h. The reaction is then partitioned between EtOAc and H2O. The layers are separated and the organic is washed several times with H2O. The organic is dried (Na2SO4) and concentrated in vacuo to an oil that is chromatographed (SiO2, 0-5% CH3OH/CHCl3) to provide [3-[4-[2-(1-piperidinyl)ethoxy]phenoxy]-2-(isopropyl]benzo[b]thiophene as a brown oil. This material is treated with Et2OoHCl to provide 1.27 g (54%) of [3-[4-[2-(1-piperidinyl)ethoxy]phenoxy]-2-(isopropyl]benzo[b]thiophene hydrochloride as a white solid.

reactant | 3-[(4-hydroxy)phenoxy]-2-(isopropyl)benzo[b]thiophene | 6.0 mmol, 1.71 g | OC1=CC=C(OC=2C3=C(SC2C(C)C)C=CC=C3)C=C1 | C17H16O2S
reactant | K2CO3 | 60 mmol, 8.30 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloroethylpiperidine | 9.0 mmol, 1.54 g | ClCCN1CCCCC1 | C7H14ClN
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-[4-[2-(1-piperidinyl)ethoxy]phenoxy]-2-(isopropyl]benzo[b]thiophene | N1(CCCCC1)CCOC1=CC=C(OC=2C3=C(SC2C(C)C)C=CC=C3)C=C1 | C24H29NO2S
